### PR TITLE
Prove FG_inequality_1 and FG_inequality_2

### PR DESCRIPTION
**Pull request by seewoo5**
Prove two modular form inequalities.
- `FmodG_AntitoneOn` is changed into `FmodG_strictAntiOn`
- Depends on #307 

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: SpherePacking/ModularForms/FG.lean [hunk 1]
```diff
@@ -593,25 +600,409 @@ lemma L₁₀_eventuallyPos : ResToImagAxis.EventuallyPos L₁₀ := by
...
+  -- Step 1: Establish the limit of numerator and denominator expressions
+  have hNum := numerator_tendsto_at_infty
+  have hDen := denominator_tendsto_at_infty
+  -- Step 2: The denominator is eventually nonzero (since it tends to 2)
+  have hDen_ne : ∀ᶠ s in atTop, (H₄.resToImagAxis s).re ^ 3 *
+      (2 * (H₄.resToImagAxis s).re ^ 2 + 5 * (H₂.resToImagAxis s).re * (H₄.resToImagAxis s).re
+        + 5 * (H₂.resToImagAxis s).re ^ 2) ≠ 0 := by
+    have h2_ne : (2 : ℝ) ≠ 0 := by norm_num
+    exact hDen.eventually_ne h2_ne
+  -- Step 3: Show FmodGReal(1/s) equals Num(s)/Den(s) for large s
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: `hDen_ne` can be avoided as described below
```suggestion
  -- Step 2: Show FmodGReal(1/s) equals Num(s)/Den(s) for large s
```

File: SpherePacking/ModularForms/FG.lean [hunk 2]
```diff
@@ -593,25 +600,409 @@ lemma L₁₀_eventuallyPos : ResToImagAxis.EventuallyPos L₁₀ := by
...
+  have hEq : ∀ᶠ s in atTop, FmodGReal (1/s) =
+      (s ^ 2 * FReal s - 12 * π ^ (-1 : ℤ) * s * ((F₁ * E₄.toFun).resToImagAxis s).re
+        + 36 * π ^ (-2 : ℤ) * (E₄.toFun.resToImagAxis s).re ^ 2) /
+      ((H₄.resToImagAxis s).re ^ 3 *
+        (2 * (H₄.resToImagAxis s).re ^ 2 + 5 * (H₂.resToImagAxis s).re * (H₄.resToImagAxis s).re
+          + 5 * (H₂.resToImagAxis s).re ^ 2)) := by
+    filter_upwards [eventually_gt_atTop 0, hDen_ne] with s hs hne
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]:
```suggestion
    filter_upwards [eventually_gt_atTop 0] with s hs
```

File: SpherePacking/ModularForms/FG.lean [hunk 3]
```diff
@@ -593,25 +600,409 @@ lemma L₁₀_eventuallyPos : ResToImagAxis.EventuallyPos L₁₀ := by
...
+        + 36 * π ^ (-2 : ℤ) * (E₄.toFun.resToImagAxis t⁻¹).re ^ 2) /
+      ((H₄.resToImagAxis t⁻¹).re ^ 3 *
+        (2 * (H₄.resToImagAxis t⁻¹).re ^ 2 +
+          5 * (H₂.resToImagAxis t⁻¹).re * (H₄.resToImagAxis t⁻¹).re +
+          5 * (H₂.resToImagAxis t⁻¹).re ^ 2)) := by
+    have h := tendsto_inv_nhdsGT_zero.eventually hEq
+    filter_upwards [h, self_mem_nhdsWithin] with t ht ht_pos
+    simp only [Set.mem_Ioi] at ht_pos
+    simp only [one_div, inv_inv] at ht
+    exact ht
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: This worked for me:
```suggestion
  have hEq' := (tendsto_inv_nhdsGT_zero.eventually hEq).mono fun t ht => by
    simpa only [one_div, inv_inv] using ht
```

**Review by cameronfreer — APPROVED** [review]

**Comment by seewoo5** [comment]
@copilot resolve merge conflict

**Review by CBirkbeck — APPROVED** [review]
